US04632938
To 140 ml of 4% phosgen-toluene solution was added 3.6 g of 2-fluoro-4-(1,1,2,2-tetrafluoroethylthio)aniline, and the mixture was heated under reflux for 3 hours. After the conclusion of the reaction, the reaction mixture was concentrated to dryness under reduced pressure to give 2-fluoro-4-(1,1,2,2-tetrafluoroethylthio)phenyl isocyanate as an oily material. The oily material was dissolved in 50 ml of xylene, and 1.5 g of 2,6-difluorobenzamide was added to the solution, followed by heating under reflux for 20 hours. After the conclusion of the reaction, the reaction mixture was cooled (0° C.), and the crystals which separated out were recovered by filtration, and further recrystallized from acetone to give N-(2,6-difluorobenzoyl)-N'-[2-fluoro-4-(1,1,2,2-tetrafluoroethylthio)phenyl]urea (Compound No. 1) as crystals having a m.p. of 177°-179° C. The resulting compound was found to show no decrease in melting point even when admixed with the authentic sample as obtained in Example 2.

reactant | 2-fluoro-4-(1,1,2,2-tetrafluoroethylthio)aniline | 3.6 g | FC1=C(N)C=CC(=C1)SC(C(F)F)(F)F | C8H6F5NS
reactant | phosgen toluene | 140 ml | C(=O)(Cl)Cl.C1(=CC=CC=C1)C
product | 2-fluoro-4-(1,1,2,2-tetrafluoroethylthio)phenyl isocyanate | FC1=C(C=CC(=C1)SC(C(F)F)(F)F)N=C=O | C9H4F5NOS
